US06114530
Hydrobromic acid (3.0 M in HOAc, 1 mL) was added to a suspension of the dihydronitroisoquinoline (0.83 g) in glacial HOAc (2 mL). The mixture was heated to 100° C. for 1 day with occasional addition of more hydrobromic acid solution (3 mL overall). After the reaction, the mixture was allowed to cool to room temperature, concentrated in vacuo, diluted by water, and extracted twice with ethyl ether. Combined organics were washed by saturated NaHCO3 solution, dried over Na2SO4, filtered, concentrated in vacuo, and chromatographed on silica gel (5% to 10% ethyl acetate in hexane) to give 234 mg of nitroisoquinoline (35%) as solids, along with 95 mg of 4-bromo-1(2,4,6-trimethylphenyl)isoquinoline (13%).

reactant | Hydrobromic acid | 3.0 M, 1 mL | Br | BrH
reactant | dihydronitroisoquinoline | 0.83 g | [N+](=O)([O-])C1NC=CC2=CC=CC=C12 | C9H8N2O2
reactant | hydrobromic acid | 3 mL | Br | BrH
solvent | HOAc | 2 mL | CC(=O)O | C2H4O2
product | nitroisoquinoline | 234 mg, 35% | [N+](=O)([O-])C1=NC=CC2=CC=CC=C12 | C9H6N2O2
